* =====================================================================
* lib_frontend.lib - SiPM muon telescope analog front end library
* Hamamatsu S13360-2050VE behavioral model
* OPA858 / OPA356 behavioral macromodels (datasheet parameters)
* TLV3601 fast comparator macromodel
* ngspice-42 syntax
* =====================================================================

* ---------------------------------------------------------------------
* SiPM avalanche current pulse, behavioral.
* Params:
*   NPE   = number of photoelectrons (fired pixels)
*   QPE   = charge per p.e.  (Cpix*Vov ~ 88fF*3V = 264fC; datasheet gain
*           1.7e6 -> 272fC. Use 270fC)
*   TAUR  = rise time constant (~1 ns)
*   TAUD  = decay time constant (Rq*Cpix ~ 150k*88f = 13.2 ns)
*   T0    = pulse start time
* Terminals: A (anode, signal out), K (cathode, HV side)
* Includes terminal capacitance CT=140p and a dark-current source IDARK.
* The double-exponential is normalized so integral = NPE*QPE exactly.
* ---------------------------------------------------------------------
.subckt SIPM_2050VE A K NPE=30 QPE=270f TAUR=1n TAUD=13.2n T0=100n IDC=0.2u
* normalization: integral of (exp(-t/td)-exp(-t/tr)) = td - tr
Bpulse K A I = (time > {T0}) ? {NPE*QPE/(TAUD-TAUR)} * ( exp(-(time-{T0})/{TAUD}) - exp(-(time-{T0})/{TAUR}) ) : 0
* terminal capacitance
Ct A K 140p
* dark/leakage current (DC)
Idark K A {IDC}
.ends SIPM_2050VE

* ---------------------------------------------------------------------
* OPA858 behavioral macromodel (single supply 3.3V here)
* Datasheet anchors:
*   GBW (decompensated)  : 5.5 GHz
*   Aol                  : ~ 73 dB  (4500 V/V)
*   Slew rate            : 2000 V/us
*   Input: FET (CMOS), Cin_cm ~ 0.6p, Cin_diff ~ 0.2p
*   en                   : 2.5 nV/rtHz
*   Output swing         : ~0.15V from rails (light load)
*   Iq                   : ~20 mA  (not modeled electrically)
* Two-pole model: dominant pole at GBW/Aol = 1.22 MHz, second pole 3.5GHz
* (gives ~60 deg PM at NG=7, mimics decompensated part)
* Pins: INP INN OUT VDD VSS
* ---------------------------------------------------------------------
.subckt OPA858 INP INN OUT VDD VSS
* input caps
Cinp INP VSS 0.62p
Cinn INN VSS 0.62p
Cind INP INN 0.2p
* input voltage noise source in series with INP
Vnoise INP INPX dc 0
* differential input, transconductance into dominant pole
Gm 0 P1 INPX INN 1m
Rp1 P1 0 4.5MEG          ; Aol = gm*Rp1 = 4500
Cp1 P1 0 29.1f           ; fp1 = 1.215 MHz -> GBW = 5.466 GHz
* anti-windup clamps on internal gain node
Dwu1 P1 PCLH DWU
Dwu2 PCLL P1 DWU
Vclh PCLH 0 5
Vcll PCLL 0 -1.7
.model DWU D(IS=1u RS=5 N=1)
* slew limiting on first stage: clamp current
* (Gm node current limited via behavioral source instead)
* second pole
Gp2 0 P2 P1 0 1m
Rp2 P2 0 1k
Cp2 P2 0 45.5f           ; fp2 = 3.5 GHz
* output buffer with rail clamp (0.15V from rails) and slew limit
Bclamp CL 0 V = ( v(P2) > (v(VDD)-0.15) ? (v(VDD)-0.15) : ( v(P2) < (v(VSS)+0.15) ? (v(VSS)+0.15) : v(P2) ) )
* slew rate limit: RC with current-limited driver  SR = Imax/Cs
Bsr 0 SL I = ( (v(CL)-v(SL)) > 0.02 ? 40u : ( (v(CL)-v(SL)) < -0.02 ? -40u : (v(CL)-v(SL))*2m ) )
Csl SL 0 20f             ; 40uA/20fF = 2000 V/us
Rsl SL 0 1G
* output impedance
Eout OB 0 SL 0 1
Rout OB OUT 10
.ends OPA858

* ---------------------------------------------------------------------
* OPA356 behavioral macromodel
*   GBW 200 MHz (unity stable), Aol ~ 94 dB, SR 360 V/us
*   en 5.8 nV/rtHz, CMOS RRIO, Iq ~ 8.3 mA
* ---------------------------------------------------------------------
.subckt OPA356 INP INN OUT VDD VSS
Cinp INP VSS 1.5p
Cinn INN VSS 1.5p
Vnoise INP INPX dc 0
Gm 0 P1 INPX INN 1m
Rp1 P1 0 50MEG           ; Aol = 50000
Cp1 P1 0 0.398p          ; fp1 = 4 kHz... recompute: GBW=Aol*fp1 -> fp1=4kHz
* fp1 = 1/(2pi*50e6*Cp1) ; want fp1 = 200e6/50000 = 4 kHz -> Cp1 = 0.796p
* fix:
.param dummy=1
Cp1b P1 0 0.398p         ; total 0.796p
Dwu1 P1 PCLH DWU
Dwu2 PCLL P1 DWU
Vclh PCLH 0 5
Vcll PCLL 0 -1.7
.model DWU D(IS=1u RS=5 N=1)
Gp2 0 P2 P1 0 1m
Rp2 P2 0 1k
Cp2 P2 0 0.53p           ; fp2 = 300 MHz
Bclamp CL 0 V = ( v(P2) > (v(VDD)-0.05) ? (v(VDD)-0.05) : ( v(P2) < (v(VSS)+0.05) ? (v(VSS)+0.05) : v(P2) ) )
Bsr 0 SL I = ( (v(CL)-v(SL)) > 0.02 ? 7.2u : ( (v(CL)-v(SL)) < -0.02 ? -7.2u : (v(CL)-v(SL))*0.36m ) )
Csl SL 0 20f             ; 7.2uA/20fF = 360 V/us
Rsl SL 0 1G
Eout OB 0 SL 0 1
Rout OB OUT 30
.ends OPA356

* ---------------------------------------------------------------------
* TLV3601 comparator macromodel
*   tpd ~ 2.5 ns, push-pull out, ~6 mV internal hysteresis
*   rise/fall ~ 1 ns into light load
* Pins: INP INN OUT VDD
* Implementation: hysteretic schmitt (behavioral) + delay line + output drv
* ---------------------------------------------------------------------
.subckt TLV3601 INP INN OUT VDD
* hysteretic decision node, state-dependent threshold
Bcmp D0 0 V = ( v(INP) - v(INN) + (v(D0DEL) > 0.5 ? 3m : -3m) ) > 0 ? 1 : 0
Rd0 D0 D0F 100
Cd0 D0F 0 2p            ; small smoothing, 0.2ns
* feedback for hysteresis state (delayed copy)
Rfb D0F D0DEL 100
Cfb D0DEL 0 2p
* propagation delay ~2.2ns via LC-free RC chain (3x 0.73ns)
Rt1 D0F T1 1k
Ct1 T1 0 0.73p
Rt2 T1 T2 1k
Ct2 T2 0 0.73p
Rt3 T2 T3 1k
Ct3 T3 0 0.73p
* output stage: rail-to-rail push-pull, 1ns edges
Bout OD 0 V = v(T3) > 0.5 ? v(VDD) : 0
Rod OD ODF 50
Cod ODF 0 10p           ; ~1ns total with Rout
Eout OB 0 ODF 0 1
Rout OB OUT 15
.ends TLV3601
